US04882083
Metal sodium (23.4 g, 1.02 mol) was added to methanol (500 ml) to obtain sodium methoxide, followed by adding thereto 4-octylbenzamidine hydrochloride (84 g, 0.31 mol) and dimethyl methoxymalonate (55 g, 0.31 mol), refluxing the mixture for 8 hours, pouring the reaction mixture in acetic acid (500 ml), filtering off deposited crystals, washing them with water and drying to obtain 4,6-dihydroxy-5-methoxy-2-(4-octylphenyl)pyrimidine (91.5 g).

reactant | 4-octylbenzamidine hydrochloride | 0.31 mol, 84 g | Cl.C(CCCCCCC)C1=CC=C(C(=N)N)C=C1
reactant | dimethyl methoxymalonate | 0.31 mol, 55 g | COC(C(=O)OC)C(=O)OC | C6H10O5
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 4,6-dihydroxy-5-methoxy-2-(4-octylphenyl)pyrimidine | 91.5 g | OC1=NC(=NC(=C1OC)O)C1=CC=C(C=C1)CCCCCCCC | C19H26N2O3
